US04486589
2-(1-Pyrrolidinylmethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]benzenesulfonamide, hydrochloride salt
A slurry of 2-(chloromethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]benzenesulfonamide (1.00 g) in dimethylformamide (5 ml) was contacted with pyrrolidine (0.45 ml) and stirred for 3.5 hrs. Volatiles were removed under vacuum and the residue was taken up in methanol. Solvent was removed and the water (15 ml) was added and the pH was adjusted to 6.0 by addition of dilute hydrochloric acid. Cooling and scratching produced a white solid which was collected and dried to give 488 mg, m.p. 117°-123°. A 400 mg sample was crystallized from acetonitrile to give 269 mg. m.p. 132°-134° C. 1H nmr δCDCl3TMS 13.0-11.0 (brds 2H), 8.63 (s, 1 NH), 8.37-8.20, 8.05-7.90, and 7.70-7.33 (m, 4H), 5.68 (s, 1H), 5.00 (s, 2H), 3.90 (s, 6H), 3.70-2.90 (m, 4H), 2.30-1.90 (m, 4H). IR (KBr) 3650-2200, 1710, 1610, 1580, 1450, 1360, 1200, 1165 are major absorption bands.

reactant | 2-(chloromethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | 1.00 g | ClCC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C14H15ClN4O5S
reactant | pyrrolidine | 0.45 ml | N1CCCC1 | C4H9N
reactant | KBr | [K+].[Br-]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(1-Pyrrolidinylmethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]benzenesulfonamide, hydrochloride salt | Cl.N1(CCCC1)CC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | InChI=1S/C18H23N5O5S.ClH/c1-27-15-11-16(28-2)20-17(19-15)21-18(24)22-29(25,26)14-8-4-3-7-13(14)12-23-9-5-6-10-23;/h3-4,7-8,11H,5-6,9-10,12H2,1-2H3,(H2,19,20,21,22,24);1H
